US08623880B2
N-{-4-[3-fluoro-4-(trifluoromethyl)phenyl]-1H-imidazol-2-yl}acetamide:
To a stirred solution of 2-bromo-1-[3-fluoro-4-(trifluoromethyl)phenyl]ethanone (4.5 g, 15.73 mmol) in acetonitrile (45 ml) was added acetyl guanidine (2.38 g, 23.60 mmol). The reaction mixture was stirred and refluxed for overnight. The solvent was evaporation under reduced pressure and diluted with water and extracted with ethyl acetate (75 ml×3) and organic layers were washed with brine, dried (Na2SO4) and filtered. The filtrate was concentrated under reduced pressure and the residue obtained after the evaporation of the solvent was purified by silica gel column chromatography using 2% methanol in chloroform to obtain 1.15 g of the product as a yellow solid; 1H NMR (300 MHz, DMSO-d6): δ 2.07 (s, 3H), 7.58 (s, 1H), 7.69-7.78 (m, 3H), 11.31 (br s, 1H), 11.91 (br s, 1H).

reactant | 2-bromo-1-[3-fluoro-4-(trifluoromethyl)phenyl]ethanone | 15.73 mmol, 4.5 g | BrCC(=O)C1=CC(=C(C=C1)C(F)(F)F)F | C9H5BrF4O
reactant | acetyl guanidine | 23.60 mmol, 2.38 g | C(C)(=O)NC(=N)N | C3H7N3O
solvent | acetonitrile | 45 ml | C(C)#N | C2H3N
product | N-{-4-[3-fluoro-4-(trifluoromethyl)phenyl]-1H-imidazol-2-yl}acetamide | 1.15 g | FC=1C=C(C=CC1C(F)(F)F)C=1N=C(NC1)NC(C)=O | C12H9F4N3O
